US09403810B2
Step 4: N-(2-Cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-5-(3,3-dimethylbutyl)-4-methylisoxazole-3-carboxamide
N-(2-Cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-5-(3,3-dimethylbut-1-yn-1-yl)-4-methylisoxazole-3-carboxamide (30 mg, 0.075 mmol) in ethanol (5 mL) was degassed thoroughly refilling with nitrogen and Pd—C (16.02 mg, 7.53 μmol) was added. The mixture was stirred under an atmosphere of hydrogen. Upon completion the reaction mixture was filtered through Celite® and the solvent was removed under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography eluting with 0-100% EtOAc in iso-hexane afforded the title compound;

reactant | N-(2-Cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-5-(3,3-dimethylbut-1-yn-1-yl)-4-methylisoxazole-3-carboxamide | 0.075 mmol, 30 mg | C1(CCCCC1)N1N(C(=C(C1=O)NC(=O)C1=NOC(=C1C)C#CC(C)(C)C)C)C | C22H30N4O3
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Pd—C | 7.53 μmol, 16.02 mg | [Pd] | Pd
product | N-(2-Cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-5-(3,3-dimethylbutyl)-4-methylisoxazole-3-carboxamide | C1(CCCCC1)N1N(C(=C(C1=O)NC(=O)C1=NOC(=C1C)CCC(C)(C)C)C)C | C22H34N4O3
